US06051358
Preparation of 2,6-Bis(2,4-dihydroxybenzyl)-4-ethylphenol
To a 2 liter round bottom flask was added 800 ml of de-mineralized water, 825.0 g resorcinol and 45.58 g of 2,6-bis(hydroxymethyl)-4-ethylresorcinol. 6.5 ml of concentrated hydrochloric acid was added and the mixture stirred overnight at ambient conditions. The reaction mixture was then added to 12 L of de-mineralized water and slowly stirred at room temperature for 24 hours. The precipitate was isolated by vacuum filtration and washed with de-mineralized water. It was air dried for 24 hours and then vacuum oven dried at 60° C. for 18 hours. About 39.3 g of product was obtained having a purity of about 91% as determined by HPLC analysis.

reactant | resorcinol | 825.0 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | 2,6-bis(hydroxymethyl)-4-ethylresorcinol | 45.58 g | OCC1=C(O)C(=CC(=C1O)CC)CO | C10H14O4
reactant | hydrochloric acid | 6.5 ml | Cl | ClH
solvent | water | 12 L | O | H2O
solvent | water | 800 ml | O | H2O
product | 2,6-Bis(2,4-dihydroxybenzyl)-4-ethylphenol | 39.3 g | OC1=C(CC2=C(C(=CC(=C2)CC)CC2=C(C=C(C=C2)O)O)O)C=CC(=C1)O | C22H22O5
